US06897231B2
C. [3-(5-(3-[(dimethylamino)methyl](1H-1,2,4-triazol-5-yl))(1H-indazol-3-yl))phenyl]-N-cyclopropylcarboxamide
The title compound was prepared according to the procedure of Example 367 C using N-cyclopropyl(3-[5-(ethoxyiminomethyl)(1H-indazol-3-yl)]phenyl)carboxamide.2HCl (377 mg, 0.89 mmol), N-amino-2-(dimethylamino) acetamide (315 mg, 2.69 mmol) and sodium methoxide (515 μL of a 25% w/w in methanol) in anhydrous methanol (5.0 mL) with a reaction time of 24 h. Purification of the residue by flash chromatography on silica gel with 50% methanol in ethyl acetate gave the desired product as a light orange solid. Further purification by preparatory TLC using 50% methanol in ethyl acetate afforded the title compound (145 mg, 40% yield) as an off-white powder. 1H NMR (DMSO-d6) δ 8.8 (br d, 1H), 8.7 (s, 1H), 8.4 (s, 1H), 8.14-8.05 (m, 2H), 7.84 (d, 1H), 7.7-7.6 (m, 2H), 3.55 (s, 2H), 2.92-2.85 (m, 1H), 2.2 (s, 6H); ES-MS (m/z) 402 [M+H]+.

reactant | N-cyclopropyl(3-[5-(ethoxyiminomethyl)(1H-indazol-3-yl)]phenyl)carboxamide | C1(CC1)NC(=O)C1=CC(=CC=C1)C1=NNC2=CC=C(C=C12)C=NOCC | C20H20N4O2
reactant | N-amino-2-(dimethylamino) acetamide | 2.69 mmol, 315 mg | NNC(CN(C)C)=O | C4H11N3O
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 5.0 mL | CO | CH4O
product | [3-(5-(3-[(dimethylamino)methyl](1H-1,2,4-triazol-5-yl))(1H-indazol-3-yl))phenyl]-N-cyclopropylcarboxamide | CN(C)CC1=NNC(=N1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)NC1CC1 | C22H23N7O
